US07220862B2
(R)-3-(4-Amino-3-hydroxy-phenyl)-2-benzyloxycarbonylamino-propionic acid methyl ester hydochloride
Powdered iron (3.7 g, 66.4 mmol) and ammonium chloride (5.9 g, 111 mmol) were added at 0° C. to a solution of (R)-2-benzyloxycarbonylamino-3-(3-hydroxy-4-nitro-phenyl)-propionic acid methyl ester (2.07 g, 5.53 mmol) in degassed 1:1 methanol/water (400 mL). The resulting mixture was stirred at room temperature for 48 h. Trifluoroacetic acid (7 mL) was added, and the mixture was swirled until it was a clear dark red solution containing a suspension of unreacted iron powder. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was extracted with ethyl acetate (2×150 mL), the combined organic layers were washed with brine and dried over sodium sulfate. After filtration, hydrochloric acid (4.2 mL, 4M in dioxane) was added. Solvents were removed in vacuo, and the title compound was obtained as a tan foamy solid (80%). 1H-NMR (CD3OD, 500 MHz) δ 7.34–7.28 (m, 5H), 7.20 (d, J=8.0 hz, 1H), 6.88 (s, 1H), 6.78 (d, J=7.5 Hz, 1H), 5.05–5.00 (m, 2H), 4.42 (dd, J=8.5, 5.0 Hz, 1H), 3.70 (s, 3H), 3.65 (s, 1H), 3.33 (br s, 2H), 3.11 (dd, J=14.0, 5.0 hz, 1H), 2.90 (dd, J=13.5, 9.0 Hz, 1H). 13CNMR (CD3OD, 125 MHz) 172.5, 157.4, 151.2, 140.2, 137.0, 128.5, 128.0, 127.7, 123.8, 120.9, 117.0, 116.9, 67.2, 55.7, 52.0, 37.2. Mass spec.: 345.20 (MH)+.

reactant | ammonium chloride | 111 mmol, 5.9 g | [Cl-].[NH4+]
reactant | (R)-2-benzyloxycarbonylamino-3-(3-hydroxy-4-nitro-phenyl)-propionic acid methyl ester | 5.53 mmol, 2.07 g | COC([C@@H](CC1=CC(=C(C=C1)[N+](=O)[O-])O)NC(=O)OCC1=CC=CC=C1)=O | C18H18N2O7
catalyst | iron | 66.4 mmol, 3.7 g | [Fe] | Fe
product | (R)-3-(4-Amino-3-hydroxy-phenyl)-2-benzyloxycarbonylamino-propionic acid methyl ester hydochloride | Cl.COC([C@@H](CC1=CC(=C(C=C1)N)O)NC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C18H20N2O5.ClH/c1-24-17(22)15(9-13-7-8-14(19)16(21)10-13)20-18(23)25-11-12-5-3-2-4-6-12;/h2-8,10,15,21H,9,11,19H2,1H3,(H,20,23);1H/t15-;/m1./s1
